US04510141
using 98.50 g (0.168 mol) of [2-(N-ethoxycarbonyl-3-(trifluoromethyl)-phenylamino)-phenylazo]-(2-chloroacetamido)-malonic acid diethyl ester there is obtained crude 1-[2-[N-ethoxycarbonyl-3-(trifluoromethyl)-phenylamino]-phenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid which sinters from 88° and melts at 100°-108° with decomposition; using 91.10 g (0.166 mol) of [2-(N-ethoxycarbonyl-2,3-dimethylphenylamino)-phenylazo]-(2-chloroacetamido)-malonic acid diethyl ester there is obtained crude 1-[2-(N-ethoxycarbonyl-2,3-dimethylphenylamino)-phenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid which melts at 188°-190° with decomposition;

reactant | [2-(N-ethoxycarbonyl-3-(trifluoromethyl)-phenylamino)-phenylazo]-(2-chloroacetamido)-malonic acid diethyl ester | 0.168 mol, 98.50 g | C(C)OC(C(C(=O)OCC)(NC(CCl)=O)N=NC1=C(C=CC=C1)N(C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F)=O | C25H26ClF3N4O7
reactant | [2-(N-ethoxycarbonyl-2,3-dimethylphenylamino)-phenylazo]-(2-chloroacetamido)-malonic acid diethyl ester | 0.166 mol, 91.10 g | C(C)OC(C(C(=O)OCC)(NC(CCl)=O)N=NC1=C(C=CC=C1)N(C(=O)OCC)C1=C(C(=CC=C1)C)C)=O | C26H31ClN4O7
product | 1-[2-(N-ethoxycarbonyl-2,3-dimethylphenylamino)-phenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | C(C)OC(=O)N(C1=C(C=CC=C1)N1N=C(N=C1CCl)C(=O)O)C1=C(C(=CC=C1)C)C | C21H21ClN4O4
